US07977477B2
4-(5-tert-Butyl-2-methoxy-benzoylamino)-1H-pyrazole-3-carboxylic acid (2-amino-phenyl)-amide (848 mg, 2.08 mmol) was dissolved in acetic acid (150 ml) and refluxed at 140° C. for 3 hours. The solution was left to cool, the solvent removed in vacuo and the resulting solid dried through azeotrope with methanol and toluene. The crude product was purified by column chromatography [SiO2, EtOAc/petrol (2:1)] to give N-[3-(1H-benzimidazol-2-yl)-1H-pyrazol-4-yl]-5-tert-butyl-2-methoxy-benzamide (500 mg, 62% yield) as a pale yellow powder. (LC/MS: Rt 3.44, [M+H]+ 390, acidic method.

reactant | 4-(5-tert-Butyl-2-methoxy-benzoylamino)-1H-pyrazole-3-carboxylic acid (2-amino-phenyl)-amide | 2.08 mmol, 848 mg | NC1=C(C=CC=C1)NC(=O)C1=NNC=C1NC(C1=C(C=CC(=C1)C(C)(C)C)OC)=O | C22H25N5O3
solvent | acetic acid | 150 ml | C(C)(=O)O | C2H4O2
product | N-[3-(1H-benzimidazol-2-yl)-1H-pyrazol-4-yl]-5-tert-butyl-2-methoxy-benzamide | 500 mg, 62% yield | N1C(=NC2=C1C=CC=C2)C2=NNC=C2NC(C2=C(C=CC(=C2)C(C)(C)C)OC)=O | C22H23N5O2
